US05059691
6-Methylpyrazolo(1,5-a)pyrimidine-3-carbonitrile
By the procedure described in Example 2, 5.40 g of 5-amino-4-pyrazolecarbonitrile is reacted with 5.70 g of 3-ethoxy-2-methylacrolein in 25 ml of glacial acid to give the desired product as colorless prisms, mp 193°-194° C.

reactant | 5-amino-4-pyrazolecarbonitrile | 5.40 g | NC1=C(C=NN1)C#N | C4H4N4
reactant | 3-ethoxy-2-methylacrolein | 5.70 g | C(C)OC=C(C=O)C | C6H10O2
product | 6-Methylpyrazolo(1,5-a)pyrimidine-3-carbonitrile | CC=1C=NC=2N(C1)N=CC2C#N | C8H6N4
